US07709496B2
(b) (2-oxo-2H-chromen-8-yl)acetaldehyde
To a solution of 8-(2-propen-1-yl)-2H-chromen-2-one (390 mg, 2.0 mmol) in dioxane (10 mL) and water (5 mL) was added OsO4 (4% solution in H2O, 0.5 mL, 10 mol %) and NaIO4 (430 mg, 4.0 mmol). The reaction was stirred at RT for 2 h and NaIO4 (430 mg, 4.0 mmol) was added and the reaction was allowed to stir another 2 h. The reaction was diluted with 20 mL of H2O and was extracted with ethyl acetate (3×50 mL). The combined extracts were dried (Na2SO4), and concentrated to give the title compound (350 mg, 93%) as a dark oil which was used without further purification: MS (ES) m/e 188.9 (M+H)+.

reactant | 8-(2-propen-1-yl)-2H-chromen-2-one | 2.0 mmol, 390 mg | C(C=C)C=1C=CC=C2C=CC(OC12)=O | C12H10O2
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
catalyst | OsO4 | 0.5 mL | O=[Os](=O)(=O)=O
product | (2-oxo-2H-chromen-8-yl)acetaldehyde | 350 mg, 93% | O=C1OC2=C(C=CC=C2C=C1)CC=O | C11H8O3
